US07271264B2
Add Pd(OAc)2 (15 mg, 0.07 mmol) and Ph3P (47 mg, 0.18 mmol) to a stirred solution of trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (600 mg, 1.1 mmol) in DME at r.t. Add Na2CO3 solution (2 mL of 2 M) followed by 1-hydroxy-2,1-benzoxaborolane (200 mg, 1.5 mmol). Stir at r.t. for 2 h and heat gently (˜50° C.) for 6 h. Dilute with CH2Cl2 and wash with water and brine, dry over MgSO4, filter and concentrate. Purify the crude product by flash chromatography (0-5% (2M NH3 in MeOH)/CH2Cl2 to yield [2-(2-hydroxymethyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (171 mg, 31%).

reactant | Ph3P | 0.18 mmol, 47 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 1.1 mmol, 600 mg | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | Na2CO3 | 2 M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-hydroxy-2,1-benzoxaborolane | 1.5 mmol, 200 mg | OB1OCC2=C1C=CC=C2 | C7H7BO2
solvent | DME | COCCOC | C4H10O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.07 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | [2-(2-hydroxymethyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 171 mg, 31% | OCC1=C(C=CC=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C32H33NO4
